US09193693B2
Step 3. 2-(Piperidin-4-yl)-3-(trifluoromethyl)pyridine
Into a 50-mL round-bottom flask, was placed a solution of tert-butyl 4-(3-(trifluoromethyl)pyridin-2-yl)piperidine-1-carboxylate (379.8 mg, 1.10 mmol, 1.00 equiv, 96%) in dichloromethane (10 mL). This was followed by the addition of trifluoroacetic acid (5 mL) dropwise with stirring at 0° C. The resulting solution was stirred for 3 h at room temperature. The pH value of the solution was adjusted to 8-9 with sat sodium bicarbonate. The resulting solution was extracted with 6×50 mL of dichloromethane and the organic layers combined and dried over anhydrous sodium sulfate. The solids were filtered out. The resulting mixture was concentrated under vacuum. This resulted in 237.4 mg (93%) of 2-(piperidin-4-yl)-3-(trifluoromethyl)pyridine as yellow oil.

reactant | tert-butyl 4-(3-(trifluoromethyl)pyridin-2-yl)piperidine-1-carboxylate | 1.10 mmol, 379.8 mg, 1.00 equiv | FC(C=1C(=NC=CC1)C1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C16H21F3N2O2
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-(Piperidin-4-yl)-3-(trifluoromethyl)pyridine | N1CCC(CC1)C1=NC=CC=C1C(F)(F)F | C11H13F3N2
